US09422331B2
A rt solution of tert-butyl(S)-1-((3S,4S)-1-((1-(2-cyanophenyl)-1H-indazol-3-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (128 mg, 178 μmol) in 4 M HCl in dioxane (889 μl) was stirred for 2 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration, taken up in MeCN—H2O, and lyophilized to provide (S)-N-((3S,4S)-1-((1-(2-cyanophenyl)-1H-indazol-3-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride (94.1 mg, 81%) as an off-white solid. MS m/z 620 (MH)+.

reactant | tert-butyl(S)-1-((3S,4S)-1-((1-(2-cyanophenyl)-1H-indazol-3-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 178 μmol, 128 mg | C(#N)C1=C(C=CC=C1)N1N=C(C2=CC=CC=C12)CN1C2=C(N([C@H]([C@@H](C1=O)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)C)C(=O)C1CCOCC1)C=CC=C2 | C40H45N7O6
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 889 μl | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (S)-N-((3S,4S)-1-((1-(2-cyanophenyl)-1H-indazol-3-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride | 94.1 mg, 81% | Cl.C(#N)C1=C(C=CC=C1)N1N=C(C2=CC=CC=C12)CN1C2=C(N([C@H]([C@@H](C1=O)NC([C@H](C)NC)=O)C)C(=O)C1CCOCC1)C=CC=C2 | InChI=1S/C35H37N7O4.ClH/c1-22(37-3)33(43)38-32-23(2)41(34(44)24-16-18-46-19-17-24)31-15-9-8-14-30(31)40(35(32)45)21-27-26-11-5-7-13-29(26)42(39-27)28-12-6-4-10-25(28)20-36;/h4-15,22-24,32,37H,16-19,21H2,1-3H3,(H,38,43);1H/t22-,23-,32-;/m0./s1
